US04205170
To 200 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-2-yl)-propionamide in 4 ml of ethanol was added 0.4 ml of conc. sulfuric acid and the mixture was refluxed with stirring for 1 hour. The solvent was distilled off to obtain the residue, to which was added pieces of ice, and the mixture was extracted with ethyl acetate and the extract was washed with saturated sodium hydrogen carbonate, then saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain brown oil, which was chromatographed over silica gel, and eluted with benzene-chloroform. There was obtained 141 mg of ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]-thiepin-2-yl)-propionate as pale yellow oil.

reactant | 2-(10,11-dihydro-11-oxo dibenzo[b,f]thiepin-2-yl)-propionamide | 200 mg | O=C1C2=C(SC3=C(C1)C=CC=C3)C=CC(=C2)C(C(=O)N)C | C17H15NO2S
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]-thiepin-2-yl)-propionate | 141 mg | O=C1C2=C(SC3=C(C1)C=CC=C3)C=CC(=C2)C(C(=O)OCC)C | C19H18O3S
